Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
post-procedure monitoring, abdominal pain
 
Major Surgical or Invasive Procedure:
___ - uterine artery embolization

 
History of Present Illness:
___ transferred for monitoring post-UAE. She underwent UAE with 
Dr. ___ on ___ due to enlarging uterine fibroids after 
failed myomectomy and prior embolizations. The procedure was 
technically challenging because of anatomical reasons but 
otherwise uneventful.
On arrival to the floor, she reports some nausea has resolved 
but that she is in ___ crampy abdominal pain. Her last UAE was 
___ years ago and she recalls having similar pain.
REVIEW OF SYSTEMS:
No fevers, chills, night sweats, or weight changes. No changes 
in vision or hearing, no changes in balance. No cough, no 
shortness of breath, no dyspnea on exertion. No chest pain or 
palpitations. No nausea or vomiting. No diarrhea or 
constipation. No dysuria or hematuria. No hematochezia, no 
melena. No numbness or weakness, no focal deficits.
 
Past Medical History:
Uterine fibroids s/p prior UAE and myomectomy
Diverticulitis
Pituitary adenoma
Systemic Lupus Erythematosus
DVT/PE
 
Social History:
___
Family History:
Mother with breast cancer, SLE, and fibroids
 
Physical Exam:
admission: 
========
VITALS - 98.0 129/83 72 20 99%RA
GENERAL - NAD
HEENT - anicteric sclera, EOMI
NECK - no JVD elevation
CARDIAC - RRR, no murmurs
PULMONARY - CTAB anteriorly
ABDOMEN - soft, NT/ND with +BS
EXTREMITIES - WWP, no edema, R. femoral access site bandage 
c/d/I, + femoral pulse
SKIN - intact, no rash

discharge: 
========
Vitals: 98.4 ___ 16 97%RA
Exam:
GENERAL - NAD
HEENT - anicteric sclera, EOMI
NECK - no JVD elevation
CARDIAC - RRR, no murmurs
PULMONARY - CTAB anteriorly
ABDOMEN - soft, NT/ND with +BS
EXTREMITIES - WWP, no edema, R. femoral access site bandage 
c/d/I, + femoral pulse
SKIN - intact, no rash
 
Pertinent Results:
admission: 
=========
___ 08:28AM URINE  UCG-NEGATIVE
___ 07:55AM   CREAT-0.9
___ 07:55AM   WBC-3.9* RBC-4.33 HGB-13.1 HCT-38.5 MCV-89 
MCH-30.3 MCHC-34.0 RDW-12.5 RDWSD-40.7
___ 07:55AM   ___

no discharge labs. 
 
Brief Hospital Course:
___ transferred for monitoring post-UAE. She underwent UAE with 
Dr. ___ on ___ due to enlarging uterine fibroids after 
failed myomectomy and prior embolization. The procedure was 
technically challenging because of anatomical reasons but 
otherwise uneventful. Her foley was removed post-operatively 
without difficulty voiding. She was on a dilaudid PCA for pain 
control, which was transitioned to oral oxycodone, naproxen, and 
tylenol. Her nausea was controlled with zofran and reglan for 
nausea. She was tolerating PO and her pain was controlled by 
discharge. 

She has a history of SLE and reports chronic leukopenia and 
thrombocytopenia. She was continued on her home 
hydroxychloroquine.

She was also continued on her iron and vitamin D 
supplementation. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydroxychloroquine Sulfate 200 mg PO DAILY 
2. Ferrous Sulfate 650 mg PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Hydroxychloroquine Sulfate 200 mg PO DAILY 
2. Vitamin D 1000 UNIT PO DAILY 
3. Docusate Sodium 100 mg PO BID:PRN constipation 
4. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 17 gram/dose 17gm powder(s) by 
mouth daily Refills:*0
5. Ferrous Sulfate 650 mg PO DAILY 
6. Naproxen 500 mg PO Q12H pain 
take with small snack. don't combine with ibuprofen 
RX *naproxen 500 mg 1 tablet(s) by mouth twice a day Disp #*30 
Tablet Refills:*0
7. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth q6hr Disp #*28 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Uterine fibroids s/p uterine artery embolization

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you at the ___ 
___. You were admitted after a planned uterine artery 
embolization. 

You will go home with a limited amount of narcotics. You do not 
have to fill the entire prescription if you do not want to. You 
also should not drive or operate heavy machinery while taking 
these medications. 

We wish you all the best, 
Your ___ Team
 
Followup Instructions:
___